US04556711
5-(4-Isobutyramidophenyl)-2(1H)-pyrazinone
In a procedure analogous to Example 3(a) 5-(4-aminophenyl)-2(1H)-pyrazinone hydrobromide and isobutyric anhydride were reacted to give, after recrystallisation from glacial acetic acid, the title compound; m.p. 279.5°-280° C.: δ(DMSO-d6) 1.03 (d, J=8 Hz, 6H, --CH(CH3)2), 3.58 (q,J=8 Hz, 1H), 7.98, 8.08 (2d, 2H, pyrazinone H's).

reactant | 5-(4-aminophenyl)-2(1H)-pyrazinone hydrobromide | Br.NC1=CC=C(C=C1)C=1N=CC(NC1)=O
reactant | isobutyric anhydride | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
product | 5-(4-Isobutyramidophenyl)-2(1H)-pyrazinone | C(C(C)C)(=O)NC1=CC=C(C=C1)C=1N=CC(NC1)=O | C14H15N3O2
